US06821980B1
(41c) Tetrahydropyran-4-sulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester
5-(3-Ethoxy-5-hydroxy-4-iodo-benzyl)-pyrimidine-2,4-diamine (see example 32 stage a) (2,300 mg; 5.96 mmol) is dissolved in tetrahydrofuran (70 ml), potassium tert-butylate (1,000 mg; 8.9 mmol) is added and the mixture is cooled to −20° C. Tetrahydropyran-4-sulphonyl chloride (2.2 g; 11.9 mmol) is added at this temperature and the mixture is then stirred for one hour at −20° C. The reaction mixture is poured on to ice-water and extracted twice with ethyl acetate. The organic phase is dried over sodium sulphate, the salts are filtered off and the solvent is evaporated off. The residue is chromatographed over silica gel with methylene chloride 1 methanol (19/1) and 0.5% ammonia. The pure fractions are co mbidand the solvent is evaporated off.

reactant | 5-(3-Ethoxy-5-hydroxy-4-iodo-benzyl)-pyrimidine-2,4-diamine | C(C)OC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1I)O | C13H15IN4O2
reactant | potassium tert-butylate | 8.9 mmol, 1,000 mg | CC(C)(C)[O-].[K+]
reactant | Tetrahydropyran-4-sulphonyl chloride | 11.9 mmol, 2.2 g | O1CCC(CC1)S(=O)(=O)Cl | C5H9ClO3S
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | Tetrahydropyran-4-sulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)C1CCOCC1 | C24H29N5O5S
